US08461179B1
A −78° C. solution of N-(4-chloro-2-fluorophenyl)acetamide (2.00 g, 10.66 mmol) in THF (40 mL), under Ar, was treated with butyl lithium (16.66 mL, 26.7 mmol), stirred at −78° C. for 2.5 h, treated slowly with DMF (1.651 mL, 21.32 mmol), stirred for 15 min at −78° C. and slowly warmed to RT. The mixture was stirred for 2 h, treated with satd. NH4Cl, the layers separated and the aqueous layer extracted with EtOAc (1×). The combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford N-(4-chloro-2-fluoro-3-formylphenyl)acetamide (1.1 g, 48% yield) as an off-white solid. MS (ESI) m/z: 216.0 [M+H]+.

reactant | N-(4-chloro-2-fluorophenyl)acetamide | 10.66 mmol, 2.00 g | ClC1=CC(=C(C=C1)NC(C)=O)F | C8H7ClFNO
reactant | butyl lithium | 26.7 mmol, 16.66 mL | C(CCC)[Li]
reactant | DMF | 21.32 mmol, 1.651 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(4-chloro-2-fluoro-3-formylphenyl)acetamide | 1.1 g, 48% yield | ClC1=C(C(=C(C=C1)NC(C)=O)F)C=O | C9H7ClFNO2
